US06001883
65A 2-methoxy-6-trifluoromethylbenzoic Acid
A mixture of potassium methylate in methanol (15 ml, 15%) and 2-fluoro-6-trifluoromethylbenzoic acid (2.08 g, 0.01 mol) is heated to reflux with stirring for 40 hours. Upon cooling to room temperature water is added. The reaction mixture is filtered and the filtrate is acidified with concentrated hydrochloric acid. The solid material is collected by filtration, washed with water and dried yielding white crystals, 1.4 g (64%), mp 130-131° C.

reactant | potassium methylate | C[O-].[K+]
reactant | 2-fluoro-6-trifluoromethylbenzoic acid | 0.01 mol, 2.08 g | FC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C8H4F4O2
reactant | water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 2-methoxy-6-trifluoromethylbenzoic Acid | COC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C9H7F3O3
